US06476246B2
(1S)-10-iodocamphor
120 mmol of iodine are added to a solution of 40 mmol of (1S)-camphor-10-sulfonic acid and 200 mmol of triphenylphosphine in 400 ml of toluene and the solution is refluxed for 15 hours. After cooling to room temperature, the solution is washed twice with 100 ml of water and dried. After removal of the solvent, the crude product is purified by means of chromatography and the product is obtained in a yield of 85%.

reactant | iodine | 120 mmol | II | I2
reactant | (1S)-camphor-10-sulfonic acid | 40 mmol | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | triphenylphosphine | 200 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (1S)-10-iodocamphor | yield of 85% | IC[C@@]12C(=O)CC(CC1)C2(C)C | C10H15IO
